US03971819
3-Benzylamino-4-phenylthio-5-sulphamyl-benzoic acid
A suspension of 3-amino-4-phenylthio-5-sulphamyl-benzoic acid (4.05 g) in water (100 ml) was adjusted to pH 7.5 by addition of 1N lithium hydroxide. Benzyl bromide (2.2 g) was added and, under stirring, the pH was kept at 7.5 by automatic titration with lithium hydroxide. After the base comsumption had become negligible, the pH was adjusted to 2.5 by addition of dilute hydrochloric acid. The precipitated 3-benzylamino-4-phenylthio-5-sulphamyl-benzoic acid was collected and recrystallized from ethanol, whereafter the compound was obtained with a melting point of 224°-225°C.

reactant | 3-amino-4-phenylthio-5-sulphamyl-benzoic acid | 4.05 g | NC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C13H12N2O4S2
reactant | lithium hydroxide | 1N | [OH-].[Li+]
reactant | Benzyl bromide | 2.2 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 3-Benzylamino-4-phenylthio-5-sulphamyl-benzoic acid | C(C1=CC=CC=C1)NC=1C=C(C(=O)O)C=C(C1SC1=CC=CC=C1)S(N)(=O)=O | C20H18N2O4S2
